* NGSPICE file created from INVX1.ext - technology: sky130A

.subckt INVX1 A Y VDD VSS
X0 Y A VSS VSS sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X1 Y A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
C0 Y A 0.03453f
C1 A VDD 0.12166f
C2 Y VDD 0.21285f
C3 Y VSS 0.36609f
C4 VDD VSS 0.70724f
.ends
